* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\ooftest.asc
R1 a 0 4
V1 a 0 5
I1 0 a 7
R2 a 0 3
R3 a 0 9
I2 c a 8
I3 0 b 6
V2 b a 4
R4 b c 5
.op
.backanno
.end
